US06960598B2
A mixture of 5′-bromo-6,2′-difluorobiphenyl-2-carbonitrile (2.28 g, 7.75 mmol), potassium acetate (2.27 g, 23.3 mmol) and bis(neopentyl glycolato)diboron (2.56 g, 11.3 mmol) was dissolved in 1,4-dioxane containing 1% v/v dimethylsulfoxide (30 mL) and this solution was degassed with nitrogen for 5 min. Dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (126 mg, 0.16 mmol) was then added and the mixture heated at 90° C. for 16 h. After cooling to ambient temperature the reaction was partitioned between ethyl acetate and water. The organic phase was washed with brine, dried over anhydrous magnesium sulfate, filtered and pre-adsorbed on to silica. Purification by chromatography on silica eluting with isohexane on a gradient of ethyl acetate (2-10%) gave a colourless oil that crystallised on standing to furnish 5′-(5,5-dimethyl[1,3,2]dioxaborinan-2-yl)-6,2′-difluorobiphenyl-2-carbonitrile as a pale brown solid (2.54 g, 100%): δH (360 MHz, CDCl3) 1.02 (6H, s), 3.76 (4H, s), 7.21 (1H, dd, J 8.4 and 9.8), 7.37-7.50 (2H, m), 7.58 (1H, dd, J 1.1 and 7.0), 7.85 (1H, dd, J 1.4 and 8.1), 7.89-7.93 (1H, m).

reactant | 5′-bromo-6,2′-difluorobiphenyl-2-carbonitrile | 7.75 mmol, 2.28 g | BrC=1C=CC(=C(C1)C=1C(=CC=CC1F)C#N)F | C13H6BrF2N
reactant | potassium acetate | 23.3 mmol, 2.27 g | C(C)(=O)[O-].[K+]
reactant | bis(neopentyl glycolato)diboron | 11.3 mmol, 2.56 g | B1(OCC(CO1)(C)C)B2OCC(CO2)(C)C | C10H20B2O4
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | dimethylsulfoxide | 30 mL | CS(=O)C | C2H6OS
catalyst | Dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.16 mmol, 126 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | 5′-(5,5-dimethyl[1,3,2]dioxaborinan-2-yl)-6,2′-difluorobiphenyl-2-carbonitrile | 2.54 g, 100% | CC1(COB(OC1)C=1C=CC(=C(C1)C=1C(=CC=CC1F)C#N)F)C | C18H16BF2NO2
